US07691861B2
Preparation of (2-Chloro-6-formyl-naphthalen-1-yl)-acetic acid ethyl ester
(2-Chloro-6-cyano-naphthalen-1-yl)-acetic acid ethyl ester (1.39 g, 5.07 mmol) is dissolved in a mixture of water (17 ml), pyridine (33 ml) and glacial acetic acid (17 ml). Sodium hypophosphite (4.30 g, 40.62 mmol) and Raney nickel (3.2 g) are then added at RT. The reaction mixture is heated to 100° C. for 1 h. TLC analysis indicates complete consumption of starting material. The reaction mixture is cooled to RT and filtered through Celite. After addition of silica gel, the solvents are removed on a rotary evaporator. Purification by FCC (hexane/EtOAc 5:1) yields the title compound. 1H NMR (CDCl3, 400 MHz): δ 1.17 (t, J=8 Hz, 3H), 4.10 (q, J=8 Hz, 2H), 4.24 (s, 2H), 7.52 (d, J=10 Hz, 1H), 7.82 (d, J=10 Hz; 1H), 7.94-7.98 (m, 2H); 8.26 (s, 1H), 10.09 (s, 1H). ES−-MS: 275.2, 277.3 [M−H]−.

reactant | (2-Chloro-6-cyano-naphthalen-1-yl)-acetic acid ethyl ester | 5.07 mmol, 1.39 g | C(C)OC(CC1=C(C=CC2=CC(=CC=C12)C#N)Cl)=O | C15H12ClNO2
reactant | Sodium hypophosphite | 40.62 mmol, 4.30 g | [PH2](=O)[O-].[Na+]
solvent | water | 17 ml | O | H2O
solvent | pyridine | 33 ml | N1=CC=CC=C1 | C5H5N
solvent | acetic acid | 17 ml | C(C)(=O)O | C2H4O2
catalyst | Raney nickel | 3.2 g | [Ni] | Ni
product | (2-Chloro-6-formyl-naphthalen-1-yl)-acetic acid ethyl ester | C(C)OC(CC1=C(C=CC2=CC(=CC=C12)C=O)Cl)=O | C15H13ClO3
